US09212165B2
Step 2: Methyl 5-(tert-butoxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate
To a solution of methyl 5-aminobicyclo[3.2.1]octane-1-carboxylate (5.5 g, 30.1 mmol) in THF (60 mL) was added TEA (7.6 g, 75.3 mmol) and (Boc)2O (8 g, 36.1 mmol) under N2. After stirring at room temperature overnight, the solvent was removed under reduced pressure. The resulting residue was diluted with ethyl acetate (150 mL), washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=8/1) to give 7.8 g (92%) of the title compound, methyl 5-(tert-butoxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate, as a white oil. ESI-MS m/z: 228 (M-55)+.

reactant | methyl 5-aminobicyclo[3.2.1]octane-1-carboxylate | 30.1 mmol, 5.5 g | NC12CCCC(CC1)(C2)C(=O)OC | C10H17NO2
reactant | (Boc)2O | 36.1 mmol, 8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Methyl 5-(tert-butoxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate | 7.8 g, 92% | C(C)(C)(C)OC(=O)NC12CCCC(CC1)(C2)C(=O)OC | C15H25NO4
